US04499299
a. Methyl cis-2-methoxy-5-methylcinnamate
A stirred solution of 6.0 g (37.46 mmol) of 6-methylcoumarin in 100 ml of dimethylformamide was treated with 3.29 g (82.41 mmol) of sodium hydroxide in 10 ml of water. After 15 minutes, 26.6 g (187.3 mmol) of methyl iodide was added. After an additional 6 hours, ether extraction provided the title compound as an oil. NMR in CDCl3 (δ units): 2.28 (singlet, 3); 3.66 (singlet, 3); 3.79 (singlet, 3); 5.97 and 7.13 (doublet, J=12 Hz, 1); 6.76 (doublet, J=8 Hz, 1); 7.09 (broad doublet, 1); 7.35 (broad singlet, 1).

reactant | 6-methylcoumarin | 37.46 mmol, 6.0 g | CC=1C=C2C=CC(OC2=CC1)=O | C10H8O2
reactant | sodium hydroxide | 82.41 mmol, 3.29 g | [OH-].[Na+]
reactant | methyl iodide | 187.3 mmol, 26.6 g | CI | CH3I
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | Methyl cis-2-methoxy-5-methylcinnamate | COC1=C(\C=C/C(=O)OC)C=C(C=C1)C | C12H14O3
